US06921763B2
trans-2-Phenyl-1-cyclopropanecarbonyl chloride (31 mg, 0.170 mmol) in dichloromethane (0.3 mL) was added to a solution of 3-(4-amino-3-methoxyphenyl)-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (60 mg, 0.17 mmol) in pyridine (1.2 mL) at 0° C. After 5 minutes, the ice-water bath was removed and the reaction mixture was stirred at room temperature for 1 hours then, more trans-2-Phenyl-1-cyclopropanecarbonyl chloride (15 mg, 0.083 mmol) was added. After 2 hours, the solvent was evaporated and the residue was purified by flash column chromatography using dichloromethane/methanol (95:5 to 70:30) as mobile phase to give N1-{4-[4-Amino-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-trans-2-phenyl-1-cyclopropanecarboxamide (75 mg, 89%). 1H NMR (CDCl3) δ 1.42 (m, 1H), 1.77 (m, 1H), 1.85 (m, 1H), 2.03 (m, 1H), 2.24 (m, 2H), 2.37 (s, 3H), 2.46 (m, 2H), 2.62 (m, 1H), 3.05 (m, 2H), 3.96 (s, 3H), 4.77 (m, 1H), 5.69 (s, 2H), 7.24 (m, 7H), 8.11 (s, 1H), 8.35 (m, 1H), 8.45 (d, J=8.38 Hz, 1H). LCMS (Thermoquest AQA single Quad MS, Finnigan HPLC-Column: Genesis, C18, 3 um, 33×4.6 mm. Eluents: 30% B/A to 95% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 0.8 mL/min.): MH+=498.3, Rt=1.84 min.

reactant | trans-2-Phenyl-1-cyclopropanecarbonyl chloride | 0.170 mmol, 31 mg | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | 3-(4-amino-3-methoxyphenyl)-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.17 mmol, 60 mg | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCN(CC2)C)OC | C18H23N7O
reactant | trans-2-Phenyl-1-cyclopropanecarbonyl chloride | 0.083 mmol, 15 mg | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
solvent | pyridine | 1.2 mL | N1=CC=CC=C1 | C5H5N
product | N1-{4-[4-Amino-1-(1-methyl-4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-trans-2-phenyl-1-cyclopropanecarboxamide | 75 mg, 89% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)[C@H]2[C@@H](C2)C2=CC=CC=C2)OC)C2CCN(CC2)C | C28H31N7O2
